R1 ( net359 net30)  R=6.0E5
T2 ( net30 net30 vdd! vdd!)  pfet  L=8.09E-6 W=8.20E-6
T3 ( net260 net30 vdd! vdd!)  pfet  L=8.09E-6 W=8.20E-6
T4 (net138 net82 net82 0) nfet L=3.27E-6 W=5.79E-6
T5 ( net376 net376 vdd! vdd!)  pfet  L=6.45E-6 W=6.67E-6
T6 ( net321 net376 vdd! vdd!)  pfet  L=6.45E-6 W=6.67E-6
R7 ( net321 net209)  R=2.0E2
T8 (net153 net344 net344 0) nfet L=1.97E-6 W=9.74E-6
R9 ( net36 net217)  R=9.0E2
T10 ( net217 net217 0 0)  nfet  L=8.03E-6 W=9.63E-6
T11 ( net466 net217 0 0)  nfet  L=8.03E-6 W=9.63E-6
R12 (net409 net55) R=1.4E1
C13 (net477 net142) C=0.8E-11
R14 ( net119 net168)  R=9.0E6
T15 ( net168 net168 0 0)  nfet  L=1.89E-6 W=0.17E-6
T16 ( net313 net168 0 0)  nfet  L=1.89E-6 W=0.17E-6
T17 (net37 net259 net259 0) nfet L=7.57E-6 W=4.36E-6
T18 ( net436 net436 vdd! vdd!)  pfet  L=8.96E-6 W=0.90E-6
T19 ( net133 net436 vdd! vdd!)  pfet  L=8.96E-6 W=0.90E-6
R20 ( net133 net426)  R=9.7E0
R21 (0 net245) R=7.4E3
R22 (net383 net372) R=7.8E5
T23 (net136 net420 net420 0) nfet L=8.26E-6 W=2.42E-6
R24 ( net196 net370)  R=0.6E5
T25 ( net370 net370 vdd! vdd!)  pfet  L=1.45E-6 W=8.62E-6
T26 ( net312 net370 vdd! vdd!)  pfet  L=1.45E-6 W=8.62E-6
C27 (net460 net210) C=5.5E-5
T28 ( 0 0 vdd! vdd!)  pfet  L=5.86E-6 W=7.74E-6
T29 ( net128 0 vdd! vdd!)  pfet  L=5.86E-6 W=7.74E-6
R30 ( net128 net84)  R=2.1E2
C31 (net88 net83) C=5.5E-9
R32 (net284 net139) R=8.2E6
T33 (net485 net147 net147 0) pfet L=2.81E-6 W=3.12E-6
R34 ( net259 net418)  R=2.5E0
T35 ( net418 net418 vdd! vdd!)  pfet  L=8.21E-6 W=2.49E-6
T36 ( net275 net418 vdd! vdd!)  pfet  L=8.21E-6 W=2.49E-6
T37 (net326 net82 net82 0) nfet L=5.06E-6 W=0.45E-6
R38 ( net249 net117)  R=5.3E2
T39 ( net117 net169 0 0)  nfet  L=3.56E-6 W=9.29E-6
T40 ( net209 net169 0 0)  nfet  L=3.56E-6 W=9.29E-6
T41 ( vdd! net117 net169 0)  nfet  L=3.56E-6 W=9.29E-6
C42 (net429 net262) C=2.6E-12
T43 (net243 0 0 0) pfet L=3.07E-6 W=4.06E-6
T44 (net426 net434 net434 0) nfet L=2.02E-6 W=3.24E-6
C45 (net367 net126) C=4.6E-9
T46 (0 net14 net14 0) pfet L=0.61E-6 W=4.53E-6
R47 ( net106 net141)  R=6.3E1
T48 ( net141 net141 vdd! vdd!)  pfet  L=5.59E-6 W=0.54E-6
T49 ( net229 net141 vdd! vdd!)  pfet  L=5.59E-6 W=0.54E-6
C50 (net29 net132) C=8.3E-9
R51 (net90 net443) R=3.6E0
R52 ( net201 net1)  R=8.6E3
T53 ( net1 net1 net38 0)  nfet  L=9.86E-6 W=7.23E-6
T54 ( net38 net147 0 0)  nfet  L=9.86E-6 W=7.23E-6
T55 ( net147 net147 0 0)  nfet  L=9.86E-6 W=7.23E-6
T56 ( net295 net1 net147 0)  nfet  L=9.86E-6 W=7.23E-6
R57 (net342 net263) R=0.3E3
R58 ( net313 net290)  R=7.2E5
T59 ( net290 net15 vdd! vdd!)  pfet  L=1.82E-6 W=9.74E-6
T60 ( net92 net15 vdd! vdd!)  pfet  L=1.82E-6 W=9.74E-6
T61 ( net387 net290 net92 vdd!)  pfet  L=1.82E-6 W=9.74E-6
T62 (net488 net91 net91 0) pfet L=8.89E-6 W=2.89E-6
T63 (net183 net311 net311 0) nfet L=7.86E-6 W=2.02E-6
R64 (net392 net327) R=10.0E0
C65 (net211 net75) C=3.2E-14
C66 (0 net464) C=5.6E-6
R67 ( net324 net371)  R=2.4E0
T68 ( net371 net488 vdd! vdd!)  pfet  L=8.30E-6 W=8.93E-6
T69 ( net356 net488 vdd! vdd!)  pfet  L=8.30E-6 W=8.93E-6
T70 ( net248 net371 net356 vdd!)  pfet  L=8.30E-6 W=8.93E-6
R71 (net182 net37) R=1.4E6
C72 (net269 net472) C=2.7E-5
C73 (net195 net358) C=2.0E-12
T74 (net479 net83 net83 0) nfet L=3.57E-6 W=2.02E-6
R75 (net196 net292) R=9.5E1
T76 (net97 net3 net3 0) nfet L=3.88E-6 W=4.62E-6
R77 ( net429 net387)  R=1.1E4
T78 ( net387 net121 vdd! vdd!)  pfet  L=5.80E-6 W=4.14E-6
T79 ( net159 net121 vdd! vdd!)  pfet  L=5.80E-6 W=4.14E-6
T80 ( 0 net387 net121 vdd!)  pfet  L=5.80E-6 W=4.14E-6
T81 (vdd! net270 net270 0) nfet L=4.68E-6 W=0.38E-6
R82 ( net39 net189)  R=7.1E6
T83 ( net189 net189 vdd! vdd!)  pfet  L=1.30E-6 W=9.44E-6
T84 ( net225 net189 vdd! vdd!)  pfet  L=1.30E-6 W=9.44E-6
R85 (net106 net449) R=7.5E2
R86 ( net170 net57)  R=2.1E3
T87 ( net57 net309 0 0)  nfet  L=8.76E-6 W=6.47E-6
T88 ( net323 net309 0 0)  nfet  L=8.76E-6 W=6.47E-6
T89 ( net144 net57 net323 0)  nfet  L=8.76E-6 W=6.47E-6
T90 (net188 net59 net59 0) nfet L=6.52E-6 W=0.50E-6
R91 ( net440 net283)  R=3.2E5
T92 ( net283 net388 vdd! vdd!)  pfet  L=6.21E-6 W=6.11E-6
T93 ( net454 net388 vdd! vdd!)  pfet  L=6.21E-6 W=6.11E-6
T94 ( 0 net283 net388 vdd!)  pfet  L=6.21E-6 W=6.11E-6
R95 (net206 net45) R=5.3E5
R96 ( net259 net218)  R=0.6E6
T97 ( net218 net218 vdd! vdd!)  pfet  L=8.01E-6 W=7.67E-6
T98 ( net146 net218 vdd! vdd!)  pfet  L=8.01E-6 W=7.67E-6
R99 (net459 net403) R=6.3E0
T100 (net271 net196 net196 0) pfet L=1.33E-6 W=5.76E-6
C101 (net158 net208) C=6.9E-10
T102 (net7 net257 net257 0) nfet L=9.24E-6 W=6.63E-6
T103 (net322 net208 net208 0) pfet L=1.41E-6 W=2.34E-6
T104 ( net166 net166 0 0)  nfet  L=1.03E-6 W=9.14E-6
T105 ( net26 net166 0 0)  nfet  L=1.03E-6 W=9.14E-6
R106 ( net26 net213)  R=5.8E2
T107 (net99 net327 net327 0) nfet L=3.37E-6 W=9.00E-6
T108 (net475 net212 net212 0) nfet L=8.18E-6 W=0.22E-6
T109 ( net357 net357 vdd! vdd!)  pfet  L=5.76E-6 W=0.28E-6
T110 ( net48 net357 vdd! vdd!)  pfet  L=5.76E-6 W=0.28E-6
R111 ( net48 net49)  R=6.0E5
R112 (net451 net260) R=8.9E3
T113 (net308 net219 net219 0) pfet L=2.35E-6 W=3.59E-6
C114 (net55 net167) C=4.2E-10
R115 ( net131 net375)  R=3.1E0
T116 ( net375 net375 0 0)  nfet  L=6.55E-6 W=6.38E-6
T117 ( net142 net375 0 0)  nfet  L=6.55E-6 W=6.38E-6
T118 (net315 net223 net223 0) pfet L=3.73E-6 W=2.69E-6
C119 (net234 net330) C=8.2E-9
C120 (net393 net206) C=6.4E-11
R121 ( net417 net339)  R=7.3E2
T122 ( net339 net339 vdd! vdd!)  pfet  L=2.14E-6 W=5.70E-6
T123 ( net367 net339 vdd! vdd!)  pfet  L=2.14E-6 W=5.70E-6
R124 (net203 net458) R=0.1E1
R125 ( net127 net67)  R=8.6E1
T126 ( net67 net197 vdd! vdd!)  pfet  L=0.69E-6 W=6.88E-6
T127 ( vdd! net197 vdd! vdd!)  pfet  L=0.69E-6 W=6.88E-6
T128 ( 0 net67 net197 vdd!)  pfet  L=0.69E-6 W=6.88E-6
C129 (net120 net252) C=0.6E-9
C130 (net416 net325) C=6.9E-10
T131 (net90 net40 net40 0) nfet L=1.67E-6 W=7.26E-6
C132 (net265 net77) C=7.1E-5
T133 (net401 net282 net282 0) pfet L=9.52E-6 W=6.66E-6
R134 (net361 net379) R=8.9E6
T135 (net23 net23 net23 0) pfet L=4.31E-6 W=5.18E-6
R136 ( net131 net61)  R=3.7E4
T137 ( net61 net39 vdd! vdd!)  pfet  L=8.77E-6 W=3.09E-6
T138 ( net129 net39 vdd! vdd!)  pfet  L=8.77E-6 W=3.09E-6
T139 ( 0 net61 net39 vdd!)  pfet  L=8.77E-6 W=3.09E-6
R140 (net409 net404) R=4.7E4
T141 (net286 net436 net436 0) pfet L=2.29E-6 W=2.72E-6
R142 ( net451 net193)  R=4.6E2
T143 ( net193 net384 vdd! vdd!)  pfet  L=6.56E-6 W=9.02E-6
T144 ( net478 net384 vdd! vdd!)  pfet  L=6.56E-6 W=9.02E-6
T145 ( net399 net193 net478 vdd!)  pfet  L=6.56E-6 W=9.02E-6
R146 (net363 net372) R=8.7E6
R147 (net312 vdd!) R=5.5E3
R148 ( net248 net297)  R=2.5E0
T149 ( net297 net251 0 0)  nfet  L=6.18E-6 W=6.97E-6
T150 ( net79 net251 0 0)  nfet  L=6.18E-6 W=6.97E-6
T151 ( net267 net297 net79 0)  nfet  L=6.18E-6 W=6.97E-6
R152 (net394 net9) R=2.4E4
R153 ( vdd! net211)  R=9.1E2
T154 ( net211 net127 vdd! vdd!)  pfet  L=8.95E-6 W=1.77E-6
T155 ( net200 net127 vdd! vdd!)  pfet  L=8.95E-6 W=1.77E-6
T156 ( net28 net211 net200 vdd!)  pfet  L=8.95E-6 W=1.77E-6
T157 (net80 net22 net22 0) nfet L=2.22E-6 W=6.30E-6
R158 ( net203 net44)  R=1.2E4
T159 ( net44 net410 0 0)  nfet  L=9.46E-6 W=9.40E-6
T160 ( net208 net410 0 0)  nfet  L=9.46E-6 W=9.40E-6
T161 ( vdd! net44 net410 0)  nfet  L=9.46E-6 W=9.40E-6
R162 (net134 net262) R=0.7E5
T163 (net440 net187 net187 0) nfet L=2.42E-6 W=9.15E-6
T164 ( net449 net449 0 0)  nfet  L=8.42E-6 W=1.47E-6
T165 ( net374 net449 0 0)  nfet  L=8.42E-6 W=1.47E-6
R166 ( net374 net98)  R=3.6E2
T167 (net295 net253 net253 0) pfet L=3.05E-6 W=3.38E-6
R168 ( net353 net178)  R=1.7E0
T169 ( net178 net452 vdd! vdd!)  pfet  L=7.55E-6 W=2.55E-6
T170 ( 0 net452 vdd! vdd!)  pfet  L=7.55E-6 W=2.55E-6
T171 ( 0 net178 net452 vdd!)  pfet  L=7.55E-6 W=2.55E-6
C172 (net456 net434) C=7.4E-13
R173 ( net304 net14)  R=1.3E6
T174 ( net14 net14 0 0)  nfet  L=9.15E-6 W=7.62E-6
T175 ( net407 net14 0 0)  nfet  L=9.15E-6 W=7.62E-6
T176 (net487 net408 net408 0) nfet L=1.48E-6 W=9.33E-6
R177 (net160 net272) R=4.7E6
R178 ( net411 net188)  R=1.5E2
T179 ( net188 net394 0 0)  nfet  L=3.83E-6 W=2.69E-6
T180 ( net367 net394 0 0)  nfet  L=3.83E-6 W=2.69E-6
T181 ( vdd! net188 net394 0)  nfet  L=3.83E-6 W=2.69E-6
R182 (net449 net224) R=8.0E2
T183 (net468 net154 net154 0) pfet L=4.78E-6 W=3.22E-6
R184 ( net40 net74)  R=6.6E4
T185 ( net74 net305 0 0)  nfet  L=8.34E-6 W=2.82E-6
T186 ( net241 net305 0 0)  nfet  L=8.34E-6 W=2.82E-6
T187 ( vdd! net74 net305 0)  nfet  L=8.34E-6 W=2.82E-6
R188 (net91 net401) R=4.6E1
R189 ( net357 net125)  R=3.3E2
T190 ( net125 net125 0 0)  nfet  L=3.78E-6 W=9.18E-6
T191 ( net196 net125 0 0)  nfet  L=3.78E-6 W=9.18E-6
R192 (net261 net271) R=0.7E6
R193 (net175 net342) R=6.5E5
T194 ( net153 net153 0 0)  nfet  L=6.75E-6 W=8.08E-6
T195 ( net424 net153 0 0)  nfet  L=6.75E-6 W=8.08E-6
R196 ( net424 net470)  R=9.9E0
R197 (net381 net47) R=5.5E2
R198 ( net208 net132)  R=4.2E5
T199 ( net132 net132 0 0)  nfet  L=8.99E-6 W=3.17E-6
T200 ( net8 net132 0 0)  nfet  L=8.99E-6 W=3.17E-6
R201 (net364 net464) R=2.0E2
T202 ( net195 net195 0 0)  nfet  L=3.91E-6 W=8.35E-6
T203 ( net265 net195 0 0)  nfet  L=3.91E-6 W=8.35E-6
R204 ( net265 net225)  R=4.8E6
T205 (net91 net350 net350 0) nfet L=8.38E-6 W=3.76E-6
T206 ( vdd! vdd! vdd! vdd!)  pfet  L=6.88E-6 W=8.98E-6
T207 ( net244 vdd! vdd! vdd!)  pfet  L=6.88E-6 W=8.98E-6
R208 ( net244 net69)  R=5.1E4
R209 (net381 0) R=3.7E4
T210 ( net405 net405 0 0)  nfet  L=0.78E-6 W=9.82E-6
T211 ( net136 net405 0 0)  nfet  L=0.78E-6 W=9.82E-6
R212 ( net136 net135)  R=8.7E4
C213 (net415 net389) C=1.4E-13
R214 (vdd! net358) R=3.2E1
C215 (net279 net445) C=9.9E-6
T216 (0 net484 net484 0) pfet L=0.53E-6 W=0.66E-6
R217 ( net89 net75)  R=2.9E1
T218 ( net75 net75 0 0)  nfet  L=2.37E-6 W=6.88E-6
T219 ( net328 net75 0 0)  nfet  L=2.37E-6 W=6.88E-6
R220 (net448 0) R=8.7E0
R221 ( net139 net161)  R=4.8E5
T222 ( net161 net287 vdd! vdd!)  pfet  L=1.97E-6 W=5.24E-6
T223 ( net313 net287 vdd! vdd!)  pfet  L=1.97E-6 W=5.24E-6
T224 ( net114 net161 net313 vdd!)  pfet  L=1.97E-6 W=5.24E-6
R225 (net107 net270) R=7.1E4
R226 (net428 net228) R=6.7E3
R227 (net103 net198) R=8.6E6
T228 (net241 net422 net422 0) nfet L=4.08E-6 W=4.96E-6
T229 (net428 net342 net342 0) pfet L=0.67E-6 W=7.17E-6
T230 (net242 net213 net213 0) pfet L=1.84E-6 W=3.56E-6
T231 (net198 net148 net148 0) pfet L=3.76E-6 W=2.69E-6
C232 (net225 net483) C=6.2E-10
T233 ( net108 net108 vdd! vdd!)  pfet  L=8.76E-6 W=1.45E-6
T234 ( net164 net108 vdd! vdd!)  pfet  L=8.76E-6 W=1.45E-6
R235 ( net164 net71)  R=1.1E4
T236 (net307 net148 net148 0) nfet L=1.45E-6 W=7.70E-6
R237 ( net368 net358)  R=4.7E1
T238 ( net358 net358 vdd! vdd!)  pfet  L=8.87E-6 W=4.67E-6
T239 ( net264 net358 vdd! vdd!)  pfet  L=8.87E-6 W=4.67E-6
T240 (net173 net72 net72 0) pfet L=1.08E-6 W=3.53E-6
R241 ( vdd! net471)  R=2.0E4
T242 ( net471 net105 0 0)  nfet  L=1.21E-6 W=8.39E-6
T243 ( net231 net105 0 0)  nfet  L=1.21E-6 W=8.39E-6
T244 ( net230 net471 net231 0)  nfet  L=1.21E-6 W=8.39E-6
T245 (net338 net84 net84 0) nfet L=9.86E-6 W=5.39E-6
T246 ( net369 net369 0 0)  nfet  L=7.16E-6 W=9.50E-6
T247 ( net249 net369 0 0)  nfet  L=7.16E-6 W=9.50E-6
R248 ( net249 net21)  R=0.3E1
T249 (net423 net357 net357 0) pfet L=4.84E-6 W=7.96E-6
R250 ( vdd! net451)  R=1.3E4
T251 ( net451 net154 vdd! vdd!)  pfet  L=0.46E-6 W=0.78E-6
T252 ( net267 net154 vdd! vdd!)  pfet  L=0.46E-6 W=0.78E-6
T253 ( net210 net451 net267 vdd!)  pfet  L=0.46E-6 W=0.78E-6
T254 (net130 net101 net101 0) pfet L=8.62E-6 W=1.51E-6
R255 ( vdd! net186)  R=3.8E5
T256 ( net186 net186 vdd! vdd!)  pfet  L=6.56E-6 W=8.27E-6
T257 ( net28 net186 vdd! vdd!)  pfet  L=6.56E-6 W=8.27E-6
R258 (net120 net304) R=4.2E5
R259 ( net166 net69)  R=0.5E5
T260 ( net69 net69 vdd! vdd!)  pfet  L=9.96E-6 W=0.27E-6
T261 ( net131 net69 vdd! vdd!)  pfet  L=9.96E-6 W=0.27E-6
R262 (net42 net29) R=1.7E4
C263 (net269 net93) C=6.6E-11
C264 (0 net174) C=9.1E-7
T265 (net393 net95 net95 0) nfet L=4.18E-6 W=1.84E-6
T266 (net484 net318 net318 0) nfet L=0.38E-6 W=3.33E-6
T267 (0 net382 net382 0) pfet L=4.18E-6 W=4.53E-6
T268 ( net194 net194 0 0)  nfet  L=9.25E-6 W=4.47E-6
T269 ( net215 net194 0 0)  nfet  L=9.25E-6 W=4.47E-6
R270 ( net215 net34)  R=1.9E1
C271 (net246 net175) C=5.3E-12
R272 ( net456 net91)  R=3.5E0
T273 ( net91 net91 0 0)  nfet  L=0.41E-6 W=4.39E-6
T274 ( net404 net91 0 0)  nfet  L=0.41E-6 W=4.39E-6
R275 (net311 net335) R=7.6E6
T276 (net207 vdd! vdd! 0) nfet L=9.75E-6 W=5.98E-6
R277 (net246 net99) R=9.3E4
T278 (net362 net256 net256 0) nfet L=7.26E-6 W=7.20E-6
T279 (net473 net59 net59 0) nfet L=2.88E-6 W=5.01E-6
T280 (net155 net442 net442 0) nfet L=3.62E-6 W=9.89E-6
R281 (net13 net134) R=5.7E3
C282 (net263 net415) C=5.3E-7
T283 (net220 net116 net116 0) pfet L=4.14E-6 W=9.52E-6
T284 (net264 net389 net389 0) pfet L=8.55E-6 W=0.86E-6
C285 (net232 net176) C=0.8E-6
T286 (vdd! net481 net481 0) pfet L=4.71E-6 W=1.23E-6
T287 (vdd! net462 net462 0) nfet L=4.83E-6 W=5.32E-6
T288 (net262 net238 net238 0) nfet L=1.93E-6 W=3.70E-6
T289 (net289 net174 net174 0) pfet L=3.40E-6 W=5.30E-6
T290 (net448 net170 net170 0) nfet L=1.21E-6 W=1.89E-6
C291 (net393 net219) C=7.5E-13
C292 (net8 net392) C=2.5E-7
C293 (net108 net176) C=7.4E-8
R294 (net382 net27) R=3.4E1
T295 (0 net439 net439 0) nfet L=8.41E-6 W=1.63E-6
T296 (net435 net447 net447 0) pfet L=7.53E-6 W=5.17E-6
R297 (net47 net256) R=7.7E6
R298 (vdd! net174) R=1.3E0
C299 (net187 net331) C=4.5E-8
C300 (net187 net406) C=9.0E-13
R301 (net262 net462) R=9.6E2
T302 (net369 net300 net300 0) nfet L=3.26E-6 W=6.83E-6
T303 (net37 net216 net216 0) pfet L=4.12E-6 W=4.47E-6
T304 (0 net382 net382 0) nfet L=4.21E-6 W=9.25E-6
T305 (net423 net112 net112 0) pfet L=9.17E-6 W=7.65E-6
C306 (net84 net182) C=4.4E-5
T307 (net165 net476 net476 0) pfet L=4.01E-6 W=3.49E-6
T308 (net264 net86 net86 0) pfet L=5.64E-6 W=3.13E-6
T309 (net192 net405 net405 0) nfet L=0.74E-6 W=6.32E-6
C310 (net413 net93) C=0.2E-5
T311 (net346 0 0 0) pfet L=7.07E-6 W=4.48E-6
T312 (net126 net445 net445 0) nfet L=5.62E-6 W=1.44E-6
C313 (net271 net315) C=5.1E-10
R314 (net27 net352) R=8.0E2
T315 (net106 net13 net13 0) nfet L=8.20E-6 W=2.74E-6
T316 (vdd! net181 net181 0) nfet L=7.83E-6 W=6.68E-6
R317 (net396 vdd!) R=6.9E0
R318 (net351 net401) R=0.6E1
T319 (net334 net198 net198 0) nfet L=9.60E-6 W=5.41E-6
R320 (0 net412) R=5.0E5
R321 (net190 net59) R=6.2E3
T322 (net260 net182 net182 0) nfet L=5.25E-6 W=4.47E-6
T323 (net226 net411 net411 0) nfet L=8.53E-6 W=4.03E-6
C324 (net236 net96) C=9.8E-12
C325 (net241 net87) C=0.3E-13
T326 (net110 net98 net98 0) pfet L=2.89E-6 W=1.98E-6
T327 (net51 net160 net160 0) pfet L=3.79E-6 W=3.74E-6
C328 (net81 vdd!) C=0.3E-8
C329 (0 net281) C=4.8E-10
C330 (net170 net65) C=6.4E-6
R331 (net101 net32) R=0.6E3
C332 (net431 vdd!) C=7.1E-13
T333 (net221 net259 net259 0) pfet L=4.97E-6 W=3.78E-6
C334 (net470 net110) C=5.7E-11
T335 (net465 net160 net160 0) nfet L=4.20E-6 W=0.48E-6
C336 (net261 net293) C=6.1E-9
T337 (net237 net179 net179 0) nfet L=5.08E-6 W=3.70E-6
T338 (net409 net457 net457 0) nfet L=9.19E-6 W=5.02E-6
T339 (net81 net298 net298 0) nfet L=0.83E-6 W=6.02E-6
R340 (net96 net406) R=1.5E1
T341 (net108 net311 net311 0) nfet L=3.55E-6 W=1.85E-6
R342 (net442 net145) R=8.1E2
C343 (net360 0) C=7.6E-6
T344 (net120 net80 net80 0) nfet L=2.23E-6 W=3.84E-6
C345 (net17 net234) C=2.3E-12
T346 (net65 net16 net16 0) pfet L=3.91E-6 W=3.99E-6
C347 (net68 net333) C=4.9E-11
T348 (net396 net393 net393 0) nfet L=3.76E-6 W=3.52E-6
T349 (net455 net314 net314 0) pfet L=4.05E-6 W=6.93E-6
R350 (net422 net414) R=2.5E4
T351 (net393 net301 net301 0) pfet L=1.43E-6 W=6.57E-6
C352 (net245 net27) C=1.1E-11
R353 (net280 net81) R=4.4E6
T354 (0 net183 net183 0) nfet L=7.00E-6 W=0.78E-6
T355 (net487 net366 net366 0) nfet L=6.61E-6 W=5.36E-6
T356 (net176 net204 net204 0) pfet L=7.27E-6 W=6.74E-6
T357 (net65 net143 net143 0) nfet L=9.82E-6 W=9.60E-6
C358 (net55 net378) C=3.5E-11
R359 (net42 net450) R=4.0E4
T360 (net295 net365 net365 0) pfet L=7.45E-6 W=7.41E-6
T361 (net145 net156 net156 0) nfet L=5.78E-6 W=5.84E-6
T362 (net301 net192 net192 0) nfet L=5.55E-6 W=9.34E-6
T363 (net245 net52 net52 0) nfet L=5.48E-6 W=2.65E-6
C364 (net423 net131) C=8.0E-7
T365 (net343 net461 net461 0) nfet L=2.84E-6 W=8.13E-6
T366 (net123 0 0 0) pfet L=4.23E-6 W=7.07E-6
T367 (net34 net250 net250 0) pfet L=9.42E-6 W=0.83E-6
C368 (net16 net155) C=3.1E-8
R369 (net377 vdd!) R=8.1E1
T370 (net395 net259 net259 0) pfet L=5.51E-6 W=1.69E-6
T371 (net32 net23 net23 0) nfet L=2.77E-6 W=5.05E-6
T372 (net180 net170 net170 0) pfet L=9.95E-6 W=7.22E-6
C373 (net300 net24) C=3.1E-5
C374 (net457 net480) C=7.7E-11
R375 (net68 vdd!) R=8.2E6
C376 (net291 net221) C=4.1E-7
T377 (vdd! net373 net373 0) pfet L=4.44E-6 W=4.43E-6
T378 (net113 net417 net417 0) pfet L=2.52E-6 W=0.44E-6
T379 (net96 net150 net150 0) pfet L=2.39E-6 W=8.73E-6
T380 (net107 net322 net322 0) nfet L=6.83E-6 W=9.82E-6
R381 (net184 net148) R=8.7E6
R382 (net203 net53) R=3.7E6
T383 (net453 vdd! vdd! 0) nfet L=5.53E-6 W=5.89E-6
T384 (net165 net415 net415 0) pfet L=9.10E-6 W=8.36E-6
R385 (net475 net73) R=0.2E6
T386 (0 net158 net158 0) pfet L=2.53E-6 W=3.31E-6
C387 (net129 net475) C=2.6E-9
T388 (0 net156 net156 0) pfet L=9.17E-6 W=9.41E-6
T389 (net236 net419 net419 0) pfet L=3.38E-6 W=1.99E-6
R390 (vdd! net146) R=4.2E2
R391 (net337 net41) R=7.7E2
C392 (net176 net359) C=1.2E-9
T393 (net155 net288 net288 0) nfet L=3.00E-6 W=6.52E-6
T394 (net277 net203 net203 0) pfet L=4.24E-6 W=5.59E-6
R395 (net86 vdd!) R=8.8E4
T396 (net108 net468 net468 0) nfet L=5.03E-6 W=6.43E-6
R397 (vdd! net396) R=7.8E4
C398 (net224 0) C=2.7E-11
T399 (net87 net31 net31 0) nfet L=8.75E-6 W=6.01E-6
T400 (net123 net306 net306 0) nfet L=6.19E-6 W=1.35E-6
T401 (net100 net320 net320 0) nfet L=8.29E-6 W=2.47E-6

